US07547691B2
2-[5-Bromo-2-(3-piperidin-4-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid methylamide
Using the method of 2-[5-fluoro-2-(3-piperidin-4-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide, the title compound is synthesized from 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methylamide and isolated as a yellow solid. ES+(m/z) 488 (79Br) and 490 (81Br) [M+H].

reactant | 2-[5-fluoro-2-(3-piperidin-4-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2F)NCCCC2CCNCC2 | C24H28FN5OS
reactant | 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)Cl | C14H9BrClN3OS
product | 2-[5-Bromo-2-(3-piperidin-4-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCCCC2CCNCC2 | C22H26BrN5OS
